US04725610
A mixture of 2-imino-5-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-4-thiazolidinone (11.4 g), 1N.H2SO4 (100 ml) and dioxane (100 ml) was stirred at 80° C. for 5 hours, and poured in water. The aqueous mixture was extracted with chloroform. The chloroform layer was washed with water, dried (MgSO4) and concentrated. The oily residue was chromatographed on a column of silica gel (200 g), and from the fractions eluted with chlorform-methanol (100:1, V/V), there was obtained 5-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-2,4-thiazolidinedione (6.7 g, 58.8%). Recrystallization from ethyl acetate-hexane afforded colorless plates. m.p. 162°-163° C. Elemental analysis for C21H18N2O4S, Calcd.: C, 63.95; H, 4.60; N, 7.10. Found: C, 63.84; H, 4.63; N, 6.90. This product showed the IR and NMR spectra in accordance with those of the compound obtained in Example 6.

reactant | 2-imino-5-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-4-thiazolidinone | 11.4 g | N=C1SC(C(N1)=O)CC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C21H19N3O3S
reactant | H2SO4 | 100 ml | OS(=O)(=O)O | H2O4S
reactant | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 5-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-2,4-thiazolidinedione | 6.7 g, 58.8% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C21H18N2O4S
